US07745641B2
In a similar manner to Step 2 of Example 16, 3-phenoxy-N-(1-methyl-1-phenylethyl)benzamide (4.00 g, 12.1 mmol) was dissolved in THF (160 mL), and the solution was treated with TMEDA (5.80 mL, 38.7 mmol), sec-butyllithium-hexane solution (0.99 mol/L, 39.0 mL, 38.7 mmol) and DMF (2.10 mL, 26.6 mmol), followed by purification by slurry using diisopropylether to obtain 4-phenoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (3.92 g, yield 90%).

reactant | 3-phenoxy-N-(1-methyl-1-phenylethyl)benzamide | 12.1 mmol, 4.00 g | O(C1=CC=CC=C1)C=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1 | C22H21NO2
reactant | TMEDA | 38.7 mmol, 5.80 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium hexane | 38.7 mmol, 0.99 mol/L, 39.0 mL | C(C)(CC)[Li].CCCCCC
reactant | DMF | 26.6 mmol, 2.10 mL | CN(C)C=O | C3H7NO
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | 4-phenoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 3.92 g, yield 90% | O(C1=CC=CC=C1)C1=C2C(N(C(C2=CC=C1)=O)C(C)(C1=CC=CC=C1)C)O | C23H21NO3
